US08461346B2
α-Chloromethyl-2,4-difluoro-3-hydroxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)-benzeneethanol
To 50 mg (0.11 mmol) of α-Chloromethyl-2,4-difluoro-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol in 4.9 dichloromethane at 0° C. are added 2.1 ml of a 1 M solution of boron tribromide in dichloromethane under argon. The reaction mixture is stirred for 16 hours in a temperature range of between 0° C. and 25° C. The reaction mixture is mixed at 0° C. with saturated sodium bicarbonate solution. After dilution with ethyl acetate the batch is allowed to come to room temperature, stirred for 10 minutes and extracted twice with ethyl acetate. The combined organic extracts are washed with saturated NaCl solution and dried over sodium sulfate. The solvent is partially evaporated and the remaining residue is passed through a short path of silica gel (ethyl acetate 100%). 43 mg of the desired compound are isolated.

reactant | α-Chloromethyl-2,4-difluoro-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol | 0.11 mmol, 50 mg | ClCC(C(C1=C(C(=C(C=C1)F)OC)F)NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F | C21H18ClF5N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Chloromethyl-2,4-difluoro-3-hydroxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)-benzeneethanol | 43 mg | ClCC(C(C1=C(C(=C(C=C1)F)O)F)NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F | C20H16ClF5N2O2
